US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/Ethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate
Ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (0.5 g) was shaken with 60 mg of the lyophilised hydrolytic enzyme mixture from Aspergillus oryzae in 1 ml 1M phosphate buffer (pH=7) with organic co-solvents (according to the table below) at 27° C. The reaction mixture was poured into 20 ml MeOH after 4 h to stop the enzymatic reactions followed by analysis by the chiral CCE method 2.

reactant | Ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | 0.5 g | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | MeOH | 20 ml | CO | CH4O
solvent | phosphate | 1M, 1 ml, pH=7 | P(=O)([O-])([O-])[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid Ethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCC)CC1=CC=C(C=C1)O | InChI=1S/C13H18O4.C11H14O4/c1-3-16-12(13(15)17-4-2)9-10-5-7-11(14)8-6-10;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,12,14H,3-4,9H2,1-2H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t12-;10-/m10/s1
